US07378409B2
Examples 11p and 11q, Step 4: To a solution of triphenylphosphine (4.47 g, 17.04 mmoles) in 50 ml of anhydrous THF at −20° C. was added 7.41 ml of 40% solution of diethyl azodicarboxylate in THF (17.04 mmoles) dropwise, and the mixture was stirred for 20 minutes at −20° C. Then to the mixture was added a solution of tert-butyl (1R,3R,4S)-4-(dibenzylamino)-3-(hydroxymethyl)cyclohexylcarbamate (1.81 g, 4.26 mmoles) in 20 ml of anhydrous THF, and it was stirred for 20 minutes at −20° C. At the end of the stirring was added 20 ml of anhydrous THF followed by acetone cyanohydrine (1.56 ml, 17.04 mmoles), and it was continued to stir for 1.5 hours while gradually raising the temperature to 8° C. The reaction was quenched by several drops of methanol, and the solvent was evaporated off. The residue was purified by column chromatography (silica gel, 25:75 EtOAc and hexane) to give 1.87 g of tert-butyl (1R,3S,4S)-3-(cyanomethyl)-4-(dibenzylamino)cyclohexylcarbamate.

reactant | triphenylphosphine | 17.04 mmoles, 4.47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tert-butyl (1R,3R,4S)-4-(dibenzylamino)-3-(hydroxymethyl)cyclohexylcarbamate | 4.26 mmoles, 1.81 g | C(C1=CC=CC=C1)N([C@@H]1[C@@H](C[C@@H](CC1)NC(OC(C)(C)C)=O)CO)CC1=CC=CC=C1 | C26H36N2O3
reactant | acetone cyanohydrine | 17.04 mmoles, 1.56 ml | CC(C#N)(O)C | C4H7NO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 17.04 mmoles | C1CCOC1 | C4H8O
product | tert-butyl (1R,3S,4S)-3-(cyanomethyl)-4-(dibenzylamino)cyclohexylcarbamate | 1.87 g | C(#N)C[C@@H]1C[C@@H](CC[C@@H]1N(CC1=CC=CC=C1)CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C27H35N3O2
